US06448442B1
5-[N-(2,3-Dihydroxypropionyl)amino]-3-hydroxymethyl-2,4,6-triiodo-N-(2,3-dihydroxypropyl)benzamide
5-[N-(2,3-Diacetoxypropionyl)amino]-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride (7.71 g, 9.9 mmol), 2,3-dihydroxypropylamine (1.48 g, 16.2 mmol), lithium bromide (90 mg, 1 mmol) and triethylamine (2.27 ml, 16.2 mmol) were mixed in tetrahydro-furan (55 ml) at ambient temperature. The temperature was increased to 65° C. and held there for 26 h with efficient stirring, and the mixture was then evaporated to dryness. The residue was dissolved in a mixture of water and methanol (6:1, 70 ml) and treated with a strongly basic anion exchange resin (Dowex 1×8) for 2.5 h. The resin was filtered off, the solution diluted with further water (50 ml) and treated with a strongly acidic cation exchange resin (Amberlyst 15) to bring the pH of the solution to 5.5-6.0. The resin was filtered off and the solution was treated with activated charcoal (0.35 g), filtered and evaporated to a light yellow to white solid residue. This was triturated with acetonitrile (20 ml) for 12 h, giving 5.8 g (70%) of a white crystalline residue.

reactant | 5-[N-(2,3-Diacetoxypropionyl)amino]-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride | 9.9 mmol, 7.71 g | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)COC(C)=O)I)COC(C)=O | C17H15ClI3NO8
reactant | 2,3-dihydroxypropylamine | 16.2 mmol, 1.48 g | OC(CN)CO | C3H9NO2
reactant | lithium bromide | 1 mmol, 90 mg | [Br-].[Li+]
reactant | triethylamine | 16.2 mmol, 2.27 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydro-furan | 55 ml | O1CCCC1 | C4H8O
product | 5-[N-(2,3-Dihydroxypropionyl)amino]-3-hydroxymethyl-2,4,6-triiodo-N-(2,3-dihydroxypropyl)benzamide | 5.8 g, 70% | OC(C(=O)NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)CO)I)CO | C14H17I3N2O7
